US05958944
10% Palladium hydroxide carbon (250 mg) was added to a mixture of N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-benzyloxycarbonylaminomethylbenzamide (540 mg), 15% hydrochloric acid-methanol (3 ml) and methanol (10 ml), and the mixture was stirred in a stream of hydrogen at 40° C. for 2 hours. After the reaction, the catalyst was removed by filtration, and the mixture was concentrated under reduced pressure. The obtained crystals were recrystallized from ethanol-ethyl acetate to give 330 mg of N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-aminomethylbenzamide dihydrochloride.

reactant | N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-benzyloxycarbonylaminomethylbenzamide | 540 mg | N1N=CC=2C1=NC=CC2NC(C2=CC=C(C=C2)CNC(=O)OCC2=CC=CC=C2)=O | C22H19N5O3
reactant | hydrochloric acid methanol | 3 ml | Cl.CO
reactant | hydrogen | [H][H] | H2
catalyst | Palladium hydroxide carbon | 250 mg | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
solvent | methanol | 10 ml | CO | CH4O
product | N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-aminomethylbenzamide dihydrochloride | 330 mg | Cl.Cl.N1N=CC=2C1=NC=CC2NC(C2=CC=C(C=C2)CN)=O | InChI=1S/C14H13N5O.2ClH/c15-7-9-1-3-10(4-2-9)14(20)18-12-5-6-16-13-11(12)8-17-19-13;;/h1-6,8H,7,15H2,(H2,16,17,18,19,20);2*1H
